US08217032B2
8,9-Difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol
Dissolve 8,9-Difluoro-5-methoxy-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol (1.1 gm, 21. mmoles) in 30 ml of methylene chloride and add 2 ml of triethylamine and 2 ml of trifluoroacetic acid. Stir at room temperature for 1 hour, neutralize with sodium bicarbonate solution and separate the organic layer. Wash the water layer with methylene chloride and combine the organic layers. Dry the liquid over sodium sulfate and remove the solvent. Purify as described in Preparation 17 to obtain an 18% yield of the racemic. Obtain the individual enantiomers by chiral chromatography using a Chiralpak AD column eluting with ethanol containing 0.2% dimethylethylamine and monitoring at 225 nm.

reactant | 8,9-Difluoro-5-methoxy-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol | 1.1 gm | FC=1C=C2OC(C3=C4C=CC(=CC4=CC=C3C2=CC1F)O)(C1=CC=C(C=C1)OCCN1CCCCC1)OC | C31H29F2NO4
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 8,9-Difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol | 18% yield | FC=1C=C2OC(C3=C4C=CC(=CC4=CC=C3C2=CC1F)O)C1=CC=C(C=C1)OCCN1CCCCC1 | C30H27F2NO3
